US07262212B2
Potassium carbonate (1.27 g, 9.22 mmol), N-ethyldiisopropylamine (0.80 ml, 4.61 mmol), and chloroacetone (1.22 ml, 13.83 mmol) were added to a solution of benzyl piperazine-1-carboxylate (2.03 g, 90.22 mmol) in acetonitrile(20 ml), and the mixture was heated under reflux for 2 hours. The insoluble substances were removed by filtration and washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography(methylene chloride/methanol=100/1) to afford benzyl 4-(2-oxopropyl)piperazine-1-carboxylate (2.24 g, yield 88%) as a pale yellow oil.

reactant | Potassium carbonate | 9.22 mmol, 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethyldiisopropylamine | 4.61 mmol, 0.80 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloroacetone | 13.83 mmol, 1.22 ml | ClCC(C)=O | C3H5ClO
reactant | benzyl piperazine-1-carboxylate | 90.22 mmol, 2.03 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | benzyl 4-(2-oxopropyl)piperazine-1-carboxylate | 2.24 g, yield 88% | O=C(CN1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C15H20N2O3
